US07612212B2
To (S)-[1-(2-fluoro-4-iodo-phenylcarbamoyl)-2-(4-fluoro-phenyl)-ethyl]-carbamic acid tert-butyl ester (4.5 g, 9.0 mmol) and cyclopropylboronic acid (1.0 g, 11.7 mmol) in a mixture of toluene (40 mL) and water (2 mL) were added potassium phosphate tribasic (6.68 g, 31.5 mmol), tricyclohexylphosphine (0.50 g, 1.8 mmol) and palladium acetate (0.20 g, 0.89 mmol). The mixture was heated to 100° C. for 3 hours then additional tricyclohexylphosphine (0.25 g, 0.89 mmol) and palladium acetate (0.10 g, 0.45 mmol) were added. Heating at 100° C. was continued for an additional 3 hours before adding cyclopropylboronic acid (0.2 g, 2.33 mmol) and heating at 100° C. for a final period of 3 hours. The reaction mixture was diluted with ethyl acetate, washed with water (twice), brine (once), dried over sodium sulphate, filtered and concentrated in vacuo. The residue was purified by chromatography over silica gel eluted with 9:1 v/v dichloromethane in hexanes to afford (S)-[1-(4-cyclopropyl-2-fluoro-phenylcarbamoyl)-2-(4-fluoro-phenyl)-ethyl]-carbamic acid tert-butyl ester as a colorless solid (2.0 g, 53%).

reactant | (S)-[1-(2-fluoro-4-iodo-phenylcarbamoyl)-2-(4-fluoro-phenyl)-ethyl]-carbamic acid tert-butyl ester | 9.0 mmol, 4.5 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)F)C(NC1=C(C=C(C=C1)I)F)=O)=O | C20H21F2IN2O3
reactant | cyclopropylboronic acid | 11.7 mmol, 1.0 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate tribasic | 31.5 mmol, 6.68 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 1.8 mmol, 0.50 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tricyclohexylphosphine | 0.89 mmol, 0.25 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cyclopropylboronic acid | 2.33 mmol, 0.2 g | C1(CC1)B(O)O | C3H7BO2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.89 mmol, 0.20 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.45 mmol, 0.10 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-[1-(4-cyclopropyl-2-fluoro-phenylcarbamoyl)-2-(4-fluoro-phenyl)-ethyl]-carbamic acid tert-butyl ester | 2.0 g, 53% | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)F)C(NC1=C(C=C(C=C1)C1CC1)F)=O)=O | C23H26F2N2O3
